US05502065
5-MethoxycarbonyI-3-pyridyltri-n-butylstannane
3-Bromo-5-methoxycarbonylpyridine was reacted with hexa(n-butyl)distannane in the presence of tri-o-tolylphosphine, triethylamine and palladium (II) acetate using a procedure similar to that described in Preparation 1. The product, which was impure, was used without characterisation in the preparation of Example 48.

reactant | 3-Bromo-5-methoxycarbonylpyridine | BrC=1C=NC=C(C1)C(=O)OC | C7H6BrNO2
reactant | hexa(n-butyl)distannane | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-MethoxycarbonyI-3-pyridyltri-n-butylstannane | COC(=O)C=1C=C(C=NC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H6NO2.3C4H9.Sn/c1-10-7(9)6-3-2-4-8-5-6;3*1-3-4-2;/h3-5H,1H3;3*1,3-4H2,2H3;
